US07087579B2
To a solution of 1-(cyclopropylmethyl)-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole (0.050 g) in 2,4,6-trimethylpyridine (1 mL) was added ethyl chloroformate (0.035 g), and the mixture was stirred at room temperature overnight. Citric acid monohydrate (3.3 g) and water were added to the reaction mixture, and the mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol), and successively by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 1-(cyclopropylmethyl)-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl ]-5-methyl-1H-pyrazole (0.043 g).

reactant | 1-(cyclopropylmethyl)-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole | 0.050 g | C1(CC1)CN1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C24H34N2O7
reactant | ethyl chloroformate | 0.035 g | ClC(=O)OCC | C3H5ClO2
reactant | Citric acid monohydrate | 3.3 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | water | O | H2O
solvent | 2,4,6-trimethylpyridine | 1 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 1-(cyclopropylmethyl)-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl ]-5-methyl-1H-pyrazole | 0.043 g | C1(CC1)CN1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)COC(=O)OCC | C27H38N2O9
